********
.subckt 3528_15414185BA210 1 2
D1 2 1 led
.MODEL led D
+ IS=124.66E-21
+ N=1.3198
+ RS=.90718
+ IKF=66.101E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******
.subckt 3528_15414194BA210 1 2
D1 2 1 led
.MODEL led D
+ IS=1.3840E-15
+ N=1.6688
+ RS=1.6640
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******

































